US04367234
5-(3-Phenoxyphenyl)oxazolidine-2,4-dione
By the procedure of Example 3, ethyl 1-hydroxy-1-(3-phenoxyphenyl)methanecarboximidate hydrochloride (13 g.) in 500 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(3-phenoxyphenyl)oxazolidine-2,4-dione (7.5 g., 66%; m.p. 104°-106° C.; m/e 269).

reactant | ethyl 1-hydroxy-1-(3-phenoxyphenyl)methanecarboximidate hydrochloride | 13 g | Cl.OC(C(OCC)=N)C1=CC(=CC=C1)OC1=CC=CC=C1
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Phenoxyphenyl)oxazolidine-2,4-dione | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1C(NC(O1)=O)=O | C15H11NO4
